US04260755
3-(Hydroxymethyl)-6-[3-(trifluoromethyl)-phenyl]-1,2,4-triazolo[4,3-b]pyridazine
A mixture of 2.3 g. of 3-hydrazino-6-[3-(trifluoromethyl)phenyl]pyridazine, 188 g. of ethyl glycolate and 40 ml. of n-butyl alcohol is heated at reflux temperature for 18 hours. The mixture is evaporated in vacuo. To the residue is added dichloromethane and hexane. The mixture is filtered to give 2.0 g. of cream colored crystals. Recrystallization from ethyl acetate gives the product of the Example as off-white crystals, m.p. 224°-226° C.

reactant | 3-hydrazino-6-[3-(trifluoromethyl)phenyl]pyridazine | N(N)C=1N=NC(=CC1)C1=CC(=CC=C1)C(F)(F)F | C11H9F3N4
reactant | ethyl glycolate | C(CO)(=O)OCC | C4H8O3
solvent | n-butyl alcohol | C(CCC)O | C4H10O
product | 3-(Hydroxymethyl)-6-[3-(trifluoromethyl)-phenyl]-1,2,4-triazolo[4,3-b]pyridazine | OCC1=NN=C2N1N=C(C=C2)C2=CC(=CC=C2)C(F)(F)F | C13H9F3N4O
